US06372764B1
1-(1-Methyl-7-indolecarbonyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(trifluoromethyl)pyrrolidine
To a solution of 0.033 g (0.07 mmol) of 1-(7-indolecarbonyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(trifluoromethyl)pyrrolidine and 0.022 g (0.084 mmol) of 18-Crown-6 ether in 2 mL of ether at rt was added 0.084 mL of KOt-Bu (1M in t-BuOH). After stirring for 5 min, 0.006 mL (0.098 mmol) of MeI was added and the reaction was stirred for 1 h. The reaction mixture was concentrated and the residue was purified by chromatography (silica, acetone:hexanes, 1:3) to give the title compound. 1H NMR (CDCl3) δ (key peaks) 7.68-7.70 (m, 1H), 7.10-7.21 (m, 4H), 7.06 (t, 1H, J=3.0 Hz), 6.97-7.03 (m, 2H), 6.55 (d, 1H, J=3.0 hz); Mass Spectrum (ESI) m/e 488 (M+1).

reactant | 1-(7-indolecarbonyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(trifluoromethyl)pyrrolidine | 0.07 mmol, 0.033 g | N1C=CC2=CC=CC(=C12)C(=O)N1CC(C(C1)C(F)(F)F)CN1CCC(CC1)C1=CC=C(C=C1)F | C26H27F4N3O
reactant | 18-Crown-6 ether | 0.084 mmol, 0.022 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | KOt-Bu | 1M, 0.084 mL | CC(C)(C)[O-].[K+]
reactant | MeI | 0.098 mmol, 0.006 mL | CI | CH3I
solvent | ether | 2 mL | CCOCC | C4H10O
product | 1-(1-Methyl-7-indolecarbonyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(trifluoromethyl)pyrrolidine | CN1C=CC2=CC=CC(=C12)C(=O)N1CC(C(C1)C(F)(F)F)CN1CCC(CC1)C1=CC=C(C=C1)F | C27H29F4N3O
